Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.94018715491
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6],1.61044227772
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.88917175125
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:6]=[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:10][H:11],2.55810429845
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.73691013703
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9][O:10][H:11].[H:7],3.2483730757
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],1.95450611892
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],3.99660090659
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10],-3.29798868571
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.61011242667
[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.73388973446
[C:12]([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.0390692
[C:3](=[O:4])=[C:6]([H:7])[C:8]([H:9])[H:10].[O:1]([C:2])[H:5]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.03042607873
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7](=[O:8])[H:9]>>[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:7](=[O:8])[H:9],2.51967415825
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-1.0470361049
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10],3.83820666847
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.20672064245
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],0.7518108861499999
[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.64670257798
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.46004761453
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-5.32483282855
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.89496941368
[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],-7.3286495186
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4],5.65639823431
[C:1]=[O:2].[C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.25784415624
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.20035742611
[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.92598880861
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6][O:7][C:8]1[H:9]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:8](/[O:7][C:6])[H:9],-0.700391768811
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.71743821531
